US04788206
In the manner described in Example 99, (2E,4Z)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid methyl ester (6.2 g) was saponified a refluxing mixture of methanol (30 mL) and 1N NaOH (30 mL). After 1 hour, the cooled reaction was neutralized with the addition of 1N HCI (30 mL) and the resulting crystalline solid was filtered off and washed well with water to give 5.8 g of (2E,4Z)-5-(4-methoxyphenyl)-5(3-pyridinyl)-2,4-pentadienoic acid, mp 235°-238° C. A sample was recrystallized from methanol to furnish the analytical specimen, mp 238°-240° C.

reactant | (2E,4Z)-5-(4-methoxyphenyl)-5-(3-pyridinyl)-2,4-pentadienoic acid methyl ester | 6.2 g | COC(\C=C\C=C(/C=1C=NC=CC1)\C1=CC=C(C=C1)OC)=O | C18H17NO3
reactant | NaOH | 1N, 30 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | (2E,4Z)-5-(4-methoxyphenyl)-5(3-pyridinyl)-2,4-pentadienoic acid | 5.8 g | COC1=CC=C(C=C1)/C(=C/C=C/C(=O)O)/C=1C=NC=CC1 | C17H15NO3
